US04837217
To a solution of 2.2 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 2.0 g of 5-chloromethyl-2-i-propyloxypyridine in 50 ml of toluene were added 8.8 g of a 5% aqueous solution of sodium hydroxide and 0.2 g of tetra-n-butylammonium bromide, and the mixture was stirred at 40° C. for 5 hours. After termination of the reaction, water was added thereto to remove the aqueous layer. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent of distillation under reduced pressure to give 3.7 g of a crude product. The crude product was added with i-propyl ether and recrystallized therefrom to obtain 3.0 g of 2-t-butyl-4-chloro-5-{(6-i-propyloxy-3-pyridyl)-methylthio}-3(2H)-pyridazinone, m.p. 111.2°~113.3° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 5-chloromethyl-2-i-propyloxypyridine | 2.0 g | ClCC=1C=CC(=NC1)OC(C)C | C9H12ClNO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | i-propyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 0.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2-t-butyl-4-chloro-5-{(6-i-propyloxy-3-pyridyl)-methylthio}-3(2H)-pyridazinone | 3.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC=1C=NC(=CC1)OC(C)C | C17H22ClN3O2S
